US07855290B2
To a solution of 1,1-cyclopropanedicarboxylic acid (3.12 g) in tetrahydrofuran (90 ml) was added dropwise triethylamine (2.43 g) while cooling in an ice water bath under a nitrogen atmosphere, followed by stirring for 1.5 hr. To the reaction mixture, was then added thionyl chloride (1.75 ml), followed by stirring at the same temperature for 30 min. To the reaction mixture were added 4-(4-amino-3-fluorophenoxy)pyridine-2-carboxamide (2.97 g) and triethylamine (2.43 g) in this order while cooling in an ice water bath under a nitrogen atmosphere, followed by stirring for 70 min. The reaction mixture was partitioned after addition of tert-butyl methyl ether (30 ml) and a 1N aqueous solution of sodium hydroxide (90 ml). The aqueous layer was partitioned with tert-butyl methyl ether (30 ml) again, and the separated aqueous layer was treated with 1N hydrochloric acid to precipitate a solid. The solid was collected by suction filtration and washed with water (10 ml, four times). Drying under reduced pressure at 50° C. provided 1-[4-(2-carbamoylpyridin-4-yl)oxy-2-fluorophenylaminocarbonyl]cyclopropanecarboxylic acid as a pale purple solid (1.90 g, 44%). After the filtrate was stood overnight, further precipitated solid was collected by suction filtration and washed with water (10 ml, twice). Drying under reduced pressure provided additional 1-[4-(2-carbamoylpyridin-4-yl)oxy-2-fluorophenylaminocarbonyl]cyclopropanecarboxylic acid as a pale purple solid (758 mg, 18%).

reactant | 1,1-cyclopropanedicarboxylic acid | 3.12 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | triethylamine | 2.43 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-amino-3-fluorophenoxy)pyridine-2-carboxamide | 2.97 g | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
reactant | triethylamine | 2.43 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-carbamoylpyridin-4-yl)oxy-2-fluorophenylaminocarbonyl]cyclopropanecarboxylic acid | 1.90 g, 44% | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)O)F | C17H14FN3O5
